US08975254B2
b) (S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxamide
The title compound was synthesized from (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile (0.2 g, 0.72 mmol), 3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxylic acid (0.137 g, 0.72 mmol), HOBt (0.145 g, 1.07 mmol), DIPEA (0.375 mL, 2.15 mmol) and EDCI (0.2 g, 1.07 mmol) using DMF as solvent using the method of Example 34(d). Yield 33.4 mg. 1H NMR (400 MHz; d6-DMSO): δ 1.23 (d, 3H), 4.41 (m, 2H), 4.52 (m, 1H), 6.79 (m, 1H), 7.65 (m, 1H), 7.78 (m, 1H), 7.95 (d, 1H), 8.03 (m, 1H), 8.38 (m, 1H), 8.83 (dd, 1H), 9.19 (dd, 1H), 9.51 (m, 1H).

reactant | (S)-4-(1-(2-aminopropyl)-1H-pyrazol-3-yl)-2-chloro-3-fluorobenzonitrile | 0.72 mmol, 0.2 g | N[C@H](CN1N=C(C=C1)C1=C(C(=C(C#N)C=C1)Cl)F)C | C13H12ClFN4
reactant | 3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxylic acid | 0.72 mmol, 0.137 g | N1=CC(=CC=C1)C1=NOC(=N1)C(=O)O | C8H5N3O3
reactant | HOBt | 1.07 mmol, 0.145 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 2.15 mmol, 0.375 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 1.07 mmol, 0.2 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | CN(C)C=O | C3H7NO
product | (S)—N-(1-(3-(3-chloro-4-cyano-2-fluorophenyl)-1H-pyrazol-1-yl)propan-2-yl)-3-(pyridin-3-yl)-1,2,4-oxadiazole-5-carboxamide | ClC=1C(=C(C=CC1C#N)C1=NN(C=C1)C[C@H](C)NC(=O)C1=NC(=NO1)C=1C=NC=CC1)F | C21H15ClFN7O2
